Name:  ___      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Premature Preterm Rupture of Membranes
 
Major Surgical or Invasive Procedure:
D+E

 
History of Present Illness:
___ G3P1 at ___ presented to the ED with leaking of fluid and 
N/V x 1d.  N/V started last night after eating at ___, had 
emesis x 1, sudden onset.  Woke this morning with persistent 
nausea, emesis x 1 today.  Had "gush of fluid" after emesis last 
night with persistent leaking of clear fluid throughout the day; 
she has needed to wear a pad.  Mild lower abd cramping also 
started today.

Denies F/C, cough, dysuria, changes in bowel habits, sick 
contacts, vaginal bleeding.  Continues to feel flutters of FM.

U/S in ED demonstrated cervical funneling with an open internal 
os. An MRI also confirmed this, with no evidence of 
appendicitis. 
 
Past Medical History:
PNC:
- ___: ___
- labs: unknown
- screening: per pt, FFS wnl

POBHX: G3 ___
- LTCS x 1, term, ___ arrest of dilation 5cm
- SAB x 1

PGYNHX:
- menstrual cycle: regular
- Paps: denies hx abnl; no hx cervical procedures
- STIs: denies

PMH:
- pseudotumor cerebri

PSH:
- LTCS
- ACL reconstruction
 
Social History:
___
Family History:
NC
 
Physical Exam:
VS: 98.4    110    127/74    16   100RA
GENERAL: NAD
CARDIO: RRR
PULM: CTAB
ABDOMEN: soft, very mild TTP b/l LQ R>L, no R/G, mildly gravid
EXTREMITIES: NT b/l

SSE: +pooling, +nitrazine with membranes seen at os, which 
appears 2-3cm dilated

bedside TAUS: adeq fluid, +FM, FHR 168bpm (M-mode)

 
Pertinent Results:
___ 09:50PM   WBC-25.4* RBC-4.02* HGB-12.2 HCT-35.2* MCV-88 
MCH-30.4 MCHC-34.6 RDW-14.1
___ 09:50PM   PLT COUNT-304
___ 09:50PM   NEUTS-84.0* LYMPHS-12.0* MONOS-3.3 EOS-0.4 
BASOS-0.3
___ 09:50PM   ALT(SGPT)-21 AST(SGOT)-17 ALK PHOS-99 TOT 
BILI-0.4
___ 09:50PM   LIPASE-17
___ 09:50PM   GLUCOSE-110* UREA N-5* CREAT-0.6 SODIUM-137 
POTASSIUM-3.8 CHLORIDE-104 TOTAL CO2-20* ANION GAP-17
___ 10:31PM   ___ PTT-28.4 ___
___ 10:31PM   ___

___ 09:40PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 09:40PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-SM
___ 09:40PM URINE  ___ BACTERIA-RARE YEAST-NONE 
EPI-0
___ 05:52AM   WBC-24.8* RBC-3.77* HGB-11.8* HCT-34.0* 
MCV-90 MCH-31.3 MCHC-34.8 RDW-13.1
___ 05:52AM   PLT COUNT-283
___ 05:52AM   ___ PTT-25.4 ___
___ 05:52AM   ___

URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 5:55 am SWAB
      Fluid should not be sent in swab transport media.  Submit 
fluids in a
      capped syringe (no needle), red top tube, or sterile cup. 
      SWAB OF VAGINAL -AMNIOTIC FLUID. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      3+  ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE ROD(S). 

   FLUID CULTURE (Final ___: 
      Due to mixed bacterial types (>=3) an abbreviated workup 
is
      performed; P.aeruginosa, S.aureus and beta strep. are 
reported if
      present. Susceptibility will be performed on P.aeruginosa 
and
      S.aureus if sparse growth or greater.. 
      HAEMOPHILUS SP.    SPARSE GROWTH. 

 
Brief Hospital Course:
Mrs. ___ was transferred from the ED to L+D, 
where she was initially expectantly managed for her PPROM. She 
was started on ampicillin, gentamicin, and clindamycin. However, 
it became apparent that she had developed chorioamnionitis 
(foul-smelling green-tinged amniotic fluid as well as fundal 
tenderness and an elevated white count). She was counseled 
regarding the prognosis and the significant risks to herself, 
and she agreed to undergo dilatation and evacuation of the 
fetus. 

Dr. ___ this procedure on ___. It was 
uncomplicated; op-note available in OMR. The patient was 
transferred to the Gynecology service post-operatively where she 
was continued on triple antibiotic therapy. She did well on this 
and remained afebrile on post-op day #1, when she was discharged 
home on oral doxycycline. She saw social work as well during her 
stay.
 
Medications on Admission:
PNV
 
Discharge Medications:
1. Motrin 600 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for pain.
Disp:*60 Tablet(s)* Refills:*0*
2. Percocet ___ mg Tablet Sig: ___ Tablets PO every ___ hours 
as needed for pain.
Disp:*20 Tablet(s)* Refills:*0*
3. Doxycycline Monohydrate 100 mg Tablet Sig: One (1) Tablet PO 
twice a day for 7 days.
Disp:*14 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
s/p D+E for pprom at 20 wks

 
Discharge Condition:
stable

 
Discharge Instructions:
Pelvic rest for 6 weeks
 
Followup Instructions:
___